US08026261B2
To a suspension of 3-benzyloxy-2-hydroxymethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (0.31 g, 0.90 mmol) in acetonitrile (8 mL) was added thionyl chloride (0.33 mL, 4.5 mmol) at room temperature. A clear solution resulted. The reaction was completed in 10 min. The reaction mixture was evaporated to dryness to give crude 3-benzyloxy-2-chloromethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one as an oil. The crude oil obtained was taken up in ethanol (10 mL) to give a clear solution. To the solution was added sodium borohydride (380 mg, 10 mmol) in several portions. The reaction was completed within a few min. The reaction mixture was diluted with methanol. The resulting clear solution was evaporated to dryness to give a solid. The solid was repeatedly extracted with dichloromethane. The combined dichloromethane solutions were combined and evaporated to dryness. Purification of the residue by column chromatography on silica gel (methanol/dichloromethane, 5/100 to 8/100 v/v) afforded the title compound (0.20 g, 67% yield, HPLC Method 1 (Example 24), RT=14.4 min). 1H NMR (DMSO-d6+D2O) δ ppm: 7.36 (m, 5H), 6.53 (s, 1H), 5.50 (q, J=6.5 Hz, 1H), 5.00 (s, 2H), 3.56 (s, 3H), 2.24 (s, 3H).

reactant | 3-benzyloxy-2-hydroxymethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 0.90 mmol, 0.31 g | C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C(C(F)(F)F)O)C)CO | C16H16F3NO4
reactant | thionyl chloride | 4.5 mmol, 0.33 mL | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-benzyloxy-2-chloromethyl-1-methyl-6-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C(=CC1=O)C(C(F)(F)F)O)C)CCl | C16H15ClF3NO3
